US07906516B2
0.26 ml (2.4 mmol) of 4-methylmorpholine and 230 mg (1.2 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (DAPECI) are added to a solution of 261 mg (1.00 mmol) of (R)-2-(4-chlorophenylcarbamoyl)pyrrolidinium chloride and 235 mg (1.00 mmol) of 4-(3-oxomorpholin-4-yl)phenylacetic acid in 2 ml of DMF, and the mixture is stirred at room temperature for 18 hours. The reaction mixture is introduced into water, and the precipitate formed is filtered off, giving N-(4-chlorophenyl)-(R)-1-{2-[4-(3-oxomorpholin-4-yl)phenyl]acetyl}pyrrolidine-2-carboxamide as a slightly brownish solid; ESI 442.

reactant | 4-methylmorpholine | 2.4 mmol, 0.26 ml | CN1CCOCC1 | C5H11NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.2 mmol, 230 mg | Cl.CN(CCCN=C=NCC)C
reactant | (R)-2-(4-chlorophenylcarbamoyl)pyrrolidinium chloride | 1.00 mmol, 261 mg | [Cl-].ClC1=CC=C(C=C1)NC(=O)[C@@H]1[NH2+]CCC1
reactant | 4-(3-oxomorpholin-4-yl)phenylacetic acid | 1.00 mmol, 235 mg | O=C1N(CCOC1)C1=CC=C(C=C1)CC(=O)O | C12H13NO4
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(4-chlorophenyl)-(R)-1-{2-[4-(3-oxomorpholin-4-yl)phenyl]acetyl}pyrrolidine-2-carboxamide | ClC1=CC=C(C=C1)NC(=O)[C@@H]1N(CCC1)C(CC1=CC=C(C=C1)N1C(COCC1)=O)=O | C23H24ClN3O4
